US07342039B2
Synthesis of 4-[({[(1E)-(1-Benzyl-1H-indol-3-yl)methylidene]amino}oxy)methyl]-2-bromobenzoic acid
To a solution of 4-[({[(1E)-(1-benzyl-1H-indol-3-yl)methylidene]amino}oxy)methyl]-2-bromobenzoic acid methyl ester (0.20 g, 0.42 mmol) in 10/5/3 tetrahydrofuran/ethanol/water (12 mL) was added 2.5 M sodium hydroxide solution (2 mL). This mixture was heated to reflux for 3 hours and then allowed to cool back to room temperature. The mixture was concentrated to approximately ¼ volume and partitioned between ethyl acetate and water. The aqueous layer was acidified to approximately pH 1 using 1 N hydrochloric acid. The layers were then separated. The aqueous layer was extracted with one additional portion of ethyl acetate. The organics were combined, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The crude material was recrystallized one time from ethyl acetate/hexanes (1/10) to give the title compound (0.15 g, 75%) as a white powder. mp=107-109° C. 1H NMR (400 MHz, DMSO-d6); δ 13.33 (bs, 1H), 8.42 (s, 1H), 7.92 (s, 1H), 7.90 (d, 1H), 7.73 (d, 1H), 7.71 (s, 1H), 7.52 (d, 1H), 7.44 (d, 1H), 7.23 (m, 7H), 5.52 (s, 2H), 5.28 (s, 2H). Mass spec; (ES+) m/z 462.9, (ES−) m/z 463.2. Elemental analysis; Calculated for C24H19BrN2O3: C, 62.22; H, 4.13; N, 6.05. Found: C, 61.61; H, 4.03; N, 5.82.

reactant | 4-[({[(1E)-(1-benzyl-1H-indol-3-yl)methylidene]amino}oxy)methyl]-2-bromobenzoic acid methyl ester | 0.42 mmol, 0.20 g | COC(C1=C(C=C(C=C1)CO/N=C/C1=CN(C2=CC=CC=C12)CC1=CC=CC=C1)Br)=O | C25H21BrN2O3
reactant | sodium hydroxide | 2.5 M, 2 mL | [OH-].[Na+]
product | 4-[({[(1E)-(1-Benzyl-1H-indol-3-yl)methylidene]amino}oxy)methyl]-2-bromobenzoic acid | 0.15 g, 75% | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)\C=N\OCC1=CC(=C(C(=O)O)C=C1)Br | C24H19BrN2O3
